US07888364B2
3-Amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide (30 mg, 0.072 mmol) was reacted with 2-methyl-6-(trifluoromethyl)nicotinoyl chloride (19 mg, 0.079 mmol) via procedure V to afford 16 mg of N-(5-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)-2-(methylsulfonylmethyl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide as a white solid. MS (Q1) 603 (M)+.

reactant | 3-Amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 0.072 mmol, 30 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C20H18ClN3O3S
reactant | 2-methyl-6-(trifluoromethyl)nicotinoyl chloride | 0.079 mmol, 19 mg | CC1=C(C(=O)Cl)C=CC(=N1)C(F)(F)F | C8H5ClF3NO
product | N-(5-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)-2-(methylsulfonylmethyl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | 16 mg | ClC1=C(C=C(C=C1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)CS(=O)(=O)C)C1=NC=CC=C1 | C28H22ClF3N4O4S
